US07494986B2
5-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-5-phenylazocane
To a solution of 5-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-5-phenylazocan-2-one (16 mg) in THF (0.10 mL) at room temperature was added borane-THF complex (1.50 M solution in THF, 93 μL) and the resulting solution was heated at 65° C. in a sealed vial for 3 h. The solution was cooled to room temperature, and methanol (0.10 mL) was added slowly followed by 1N hydrochloric acid (0.10 mL), and the reaction mixture was heated at 65° C. for 2 h. The solvents were removed in vacuo, dichloromethane and 1N sodium hydroxide were added, and the aqueous layer was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated in vacuo to give the title compound as an oil. 1H NMR (400 MHz, CDCl3) δ 1.57 (4H, m), 1.87 (1H, broad, s), 2.09 (4H, m), 2.72 (2H, m), 2.88 (2H, m), 3.43 (2H, s), 4.41 (2H, s), 7.21 (1H, m), 7.39 (4H, m), 7.54 (2H, s), and 7.21 (1H, s). HPLC retention time (1.87 min, column: 4.6×50 mm XTERRA C18 S5, flow rate: 5 mL/min, gradient: 0-100% MeOH/H2O 0.1% TFA over 2 min). MS: 446 (MH+).

reactant | 5-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-5-phenylazocan-2-one | 16 mg | FC(C=1C=C(COCC2(CCC(NCCC2)=O)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C23H23F6NO2
reactant | borane THF | 1.50 M, 93 μL | B.C1CCOC1
reactant | methanol | 0.10 mL | CO | CH4O
reactant | hydrochloric acid | 1N, 0.10 mL | Cl | ClH
solvent | THF | 0.10 mL | C1CCOC1 | C4H8O
product | 5-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-5-phenylazocane | FC(C=1C=C(COCC2(CCCNCCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C23H25F6NO
